US05658858
A solution of methanesulphonyl chloride (6.3 g) in dichloromethane was added to a stirred, cooled (0°-5° C.) solution of methyl 2-amino-4-chlorobenzoate (9.5 g) in dichloromethane. Triethylamine (7.1 g) was then added and the mixture was stirred at 0°-5° C. for 10 minutes and then at room temperature for 0.5 hours. The mixture was diluted with 2N hydrochloric acid. The organic phase was separated, washed with water, dried and evaporated. The crude product was purified by column chromatography to yield methyl 4-chloro-2-(N-methylsulphonylamino)benzoate as a white solid, (3.6 g) m.p. 125.5°-128.1° C.

reactant | methanesulphonyl chloride | 6.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 2-amino-4-chlorobenzoate | 9.5 g | NC1=C(C(=O)OC)C=CC(=C1)Cl | C8H8ClNO2
reactant | Triethylamine | 7.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hydrochloric acid | 2N | Cl | ClH
product | methyl 4-chloro-2-(N-methylsulphonylamino)benzoate | ClC1=CC(=C(C(=O)OC)C=C1)NS(=O)(=O)C | C9H10ClNO4S
